US05210086
1.2. 4-(4-Fluorophenoxy)-1-piperidinepropanamine
13.8 g (0.04 mol) of 2-{3-[4-(4-fluorophenoxy)-1-piperidyl]propyl}-1H-isoindole-1,3(2H)-dione and 3.9 ml (0.08 mol) of hydrazine in 280 ml of EtOH are reacted for 3 h at the refluxing temperature, and the mixture is then left overnight. 15 ml of concentrated HCl and 20 ml of H2O are then introduced. The mixture is left for 3 hours at the refluxing temperature, then filtered and concentrated. The residue is taken up with water, filtered and rinsed with water. The filtrate is washed twice with ether, then alkalinised with NaOH and extracted 3 times with CH2Cl2. The solution is dried over Na2SO4, filtered and concentrated.

reactant | 2-{3-[4-(4-fluorophenoxy)-1-piperidyl]propyl}-1H-isoindole-1,3(2H)-dione | 0.04 mol, 13.8 g | FC1=CC=C(OC2CCN(CC2)CCCN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C22H23FN2O3
reactant | hydrazine | 0.08 mol, 3.9 ml | NN | H4N2
reactant | HCl | 15 ml | Cl | ClH
reactant | H2O | 20 ml | O | H2O
solvent | EtOH | 280 ml | CCO | C2H6O
product | 4-(4-Fluorophenoxy)-1-piperidinepropanamine | FC1=CC=C(OC2CCN(CC2)CCCN)C=C1 | C14H21FN2O
